US06953787B2
N-Trifluoroacetyl-7-benzyloxy-8-bromo-1-methyl-2,3,4,5-tetrahydro-1H-3-benzazepine
A solution of N-trifluoroacetyl-8-bromo-7-hydroxy-1-methyl-2,3,4,5-tetrahydro-1H-3-benzazepine (0.075 g, 0.213 mmol) in dichloromethane (5 mL) was treated with benzyl bromide (0.072 g, 0.64 mmol), DBU (0.100 g, 0.64 mmol), and stirred 2 hours at 20 C. The product mixture was diluted with EtOAc (50 mL), washed with 5% aqueous HCl (20 mL), brine (20 mL), dried with Na2SO4 and concentrated. Flash chromatography (15% EtOAc in hexane, silica) resulted in 0.081 g of a clear oil. MS calculated for C20H19BrF3NO2+H: 442, observed: 442.

reactant | N-trifluoroacetyl-8-bromo-7-hydroxy-1-methyl-2,3,4,5-tetrahydro-1H-3-benzazepine | 0.213 mmol, 0.075 g | FC(C(=O)N1CCC2=C(C(C1)C)C=C(C(=C2)O)Br)(F)F | C13H13BrF3NO2
reactant | benzyl bromide | 0.64 mmol, 0.072 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | DBU | 0.64 mmol, 0.100 g | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
product | N-Trifluoroacetyl-7-benzyloxy-8-bromo-1-methyl-2,3,4,5-tetrahydro-1H-3-benzazepine | 0.081 g | FC(C(=O)N1CCC2=C(C(C1)C)C=C(C(=C2)OCC2=CC=CC=C2)Br)(F)F | C20H19BrF3NO2
